US06770667B1
A suspension of 5-(2-methyl-5-nitrophenyl)pyrimidine (0.431 g) in tetrahydrofuran (4 ml) and methanol (4 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 129 mg) under hydrogen atmosphere for 2 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 5-(5-amino-2-methylphenyl)pyrimidine (370 mg, 99.7%).

reactant | 5-(2-methyl-5-nitrophenyl)pyrimidine | 0.431 g | CC1=C(C=C(C=C1)[N+](=O)[O-])C=1C=NC=NC1 | C11H9N3O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
catalyst | palladium on carbon | 129 mg | [Pd] | Pd
product | 5-(5-amino-2-methylphenyl)pyrimidine | 370 mg, 99.7% | NC=1C=CC(=C(C1)C=1C=NC=NC1)C | C11H11N3
